US08226683B2
Synthesis of High Molecular Weight 95/5 ε-Caprolactone/Glycolide Crystalline Nitrogenous Composition
A mixture of ε-caprolactone (143 g, 1.254 mole) and glycolide (7.7 g, 0.066 mole) was charged into a predried reactor, equipped for mechanical stirring, under an anhydrous nitrogen atmosphere. To this was added triethanolamine (0.13 g, 8.71×10−4 mole) as the initiator and a catalytic amount of stannous octoate (1.1 ml of a 0.2 M solution in toluene, 2.2×10−4 mole). The system was heated at 40° C. under reduced pressure for at least 10 minutes and then purged with dry nitrogen. The charge was then heated to and kept at 160° C. while maintaining mechanical stirring until the resulting polymer was too viscous to stir. The polymerization was continued for 6 hours. At the conclusion of this period, the polymer was cooled, isolated, and ground. The ground polymer was dried at 40° C. under reduced pressure and characterized for identity by NMR and IR, thermal properties by DSC, and molecular weight using inherent viscosity and GPC. The GPC chromatograms indicated no significant level of residual monomer in the polymer. Analytical data of the polymer can be summarized as follows: Tm=50° C., ΔHf=67 J/g, I.V.=1.6, Mn(by GPC in THF)=121 kDa.

reactant | ε-caprolactone | 1.254 mole, 143 g | C1(CCCCCO1)=O | C6H10O2
reactant | glycolide | 0.066 mole, 7.7 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | triethanolamine | 8.71×10−4 mole, 0.13 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ε-Caprolactone Glycolide | C1(CCCCCO1)=O.C1C(=O)OCC(=O)O1 | InChI=1S/C6H10O2.C4H4O4/c7-6-4-2-1-3-5-8-6;5-3-1-7-4(6)2-8-3/h1-5H2;1-2H2
